US07456164B2
4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}-N,N-diethyltetra-hydro-2H-pyran-4-carboxamide
4-{4-[(1-Isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylic acid (86 mg, 0.2 mol), diethylamine (27 μL, 0.26 mmol), O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (108 mg, 0.29 mmol), pyridine (53 uL, 0.66 mmol) were combined and dissolved in dimethylformamide (1.5 mL). The reaction mixture was stirred at 60° C. for 5 hours. Further diethylamine was added (500 μL). The reaction mixture was stirred at ambient temperature for 60 hours. The reaction mixture was diluted with water (25 mL), and extracted with ethyl acetate (2×35 mL). The combined organics were dried using Na2SO4, filtered and concentrated in vacuo. The compound was purified by column chromatography using 15 g of silica gel, eluting with dichloromethane:methanol:ammonia (96:4:0.4) to dichloromethane:methanol:ammonia (90:10:1) to give the title compound as a clear yellow oil (10 mg, 11%). 1H NMR (400 MHz, CD3OD) δ7.2 (d, 2H), 6.95 (d, 2H), 4.4 (m, 1H), 3.85-3.7 (m, 4H), 3.3 (m, 2H), 3.05-2.9 (m, 5H), 2.6 (m, 2H), 2.25 (d, 2H), 2.0 (m, 4H), 1.8 (m, 2H), 1.1 (m, 9H), 0.63 (m, 3H)

reactant | 4-{4-[(1-Isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carboxylic acid | 0.2 mol, 86 mg | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(=O)O | C20H29NO4
reactant | diethylamine | 0.26 mmol, 27 μL | C(C)NCC | C4H11N
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.29 mmol, 108 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | pyridine | 0.66 mmol, 53 uL | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | water | 25 mL | O | H2O
product | 4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}-N,N-diethyltetra-hydro-2H-pyran-4-carboxamide | 10 mg, 11% | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(=O)N(CC)CC | C24H38N2O3
